* Netlist da Célula 8T-SER
    *Pull-UP
    Mp1     vcell     q2      qb     vcell   PMOS   w=w_pu   l=length
    Mp2     q         q2b     vcell  vcell   PMOS   w=w_pu   l=length
    Mp3     vcell     q2b     q2     vcell   PMOS   w=w_pu   l=length
    Mp4     q2b       q2      vcell  vcell   PMOS   w=w_pu   l=length
    *Access WL
    Mn1     wl        q       qb     gnd     NMOS   w=w_pd   l=length
    Mn2     q         qb      wl     gnd     NMOS   w=w_pd   l=length
    *Access Bitlines
    Mn3     bl        qb      q2     gnd     NMOS   w=w_ac   l=length
    Mn4     q2b       q       blb    gnd     NMOS   w=w_ac   l=length