* Transistores de passagem
Mmsa2	blb		sae		outb 	gnd		NMOS	w=w_sa_ac	l=length
Mmsa1	bl		sae		out		gnd		NMOS	w=w_sa_ac	l=length
Mmsa7   xsa1	sae		vdd		vdd		PMOS	w=w_sa_ac	l=length

* Inversor 1
Mmsa3	xsa1   	out   	outb  	vdd 	PMOS  	w=w_sa_pu  l=length
Mmsa5	outb	out		gnd 	gnd   	NMOS	w=w_sa_pd	l=length

* Inversor 2
Mmsa4	xsa1	outb	out		vdd		PMOS	w=w_sa_pu	l=length
Mmsa6	out		outb	gnd  	gnd		NMOS	w=w_sa_pd	l=length
	