* Fontes DC
Vcell	vcell	gnd		DC	supply
Vvdd	vdd		gnd		DC	supply
Vwl2	wl2		gnd		DC	0
Vwl22	wl22	gnd		DC	0


* Ondas
Vbit bit gnd PWL(0ns 0 '2*unit' 0 '2*unit + slope' supply)

Vwe we gnd PWL(0ns supply 1ns supply 1.1ns 0 2ns 0 2.1ns supply 3ns supply 3.1ns 0)

Vwl wl gnd PWL(0ns 0 '3*ts_w' 0 '3*ts_w + slope' supply '4*ts_w' supply '4*ts_w + slope' 0
+ 'unit + 3*ts_w' 0 'unit + 3*ts_w + slope' supply 'unit + 4*ts_w' supply 'unit + 4*ts_w + slope' 0
+ '2*unit + 3*ts_w' 0 '2*unit + 3*ts_w + slope' supply '2*unit + 4*ts_w' supply '2*unit + 4*ts_w + slope' 0
+ '3*unit + 3*ts_w' 0 '3*unit + 3*ts_w + slope' supply '3*unit + 4*ts_w' supply '3*unit + 4*ts_w + slope' 0)

Vpre 	pre	    gnd		PWL ( '0*ts_w'              supply  'ts_w'                supply
							+ 'ts_w+slope'          0       '6*ts_w'              0
							+ '6*ts_w+slope'        supply  'unit+ts_r'           supply
							+ 'unit+ts_r+slope'     0       'unit+6*ts_r'         0
							+ 'unit+6*ts_r+slope'   supply  '2*unit+ts_w'		  supply
							+ '2*unit+ts_w+slope'   0       '2*unit+6*ts_w'       0
							+ '2*unit+6*ts_w+slope' supply  '3*unit+ts_r'         supply
							+ '3*unit+ts_r+slope'   0       '3*unit+6*ts_r'       0
							+ '3*unit+6*ts_r+slope' supply  '4*unit'		      supply)

Vsae 	sae	    gnd		PWL ( '0*ts_w'              supply  'unit+4*ts_r'         supply
							+ 'unit+4*ts_r+slope'   0       'unit+5*ts_r'         0
							+ 'unit+5*ts_r+slope'   supply  '3*unit+4*ts_r'       supply
							+ '3*unit+4*ts_r+slope' 0       '3*unit+5*ts_r'       0
							+ '3*unit+5*ts_r+slope' supply  '4*unit'
